2124-09-09 07:44:00 Physician Resident Progress Note
Chief Complaint: hypotension following ERCP and demand ischemia
   24 Hour Events:
 ARTERIAL LINE - START [**2124-9-8**] 03:50 PM
   A-line inserted in ERCP [**9-8**]
 MULTI LUMEN - START [**2124-9-8**] 03:51 PM
   inserted [**9-8**] upon arrival to ICU
 EKG - At [**2124-9-8**] 07:00 PM
 EKG - At [**2124-9-8**] 09:30 PM
   Patient with acute MI.  Seen by cardiology yesterday PM.  Because of
   sepsis and s/p ERCP will have to wait on catheterization right now.
   started on iv heparin drip, restarted on aspirin, plavix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-8**] 06:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-9**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Dopamine - 8 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2124-9-8**] 08:45 PM
   Pantoprazole (Protonix) - [**2124-9-8**] 10:20 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2124-9-9**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (77 - 110) bpm
   BP: 92/43(59) {89/43(59) - 109/52(68)} mmHg
   RR: 21 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 25 (10 - 25)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  2,105 mL
                                                                    537 mL
   PO:
   TF:
   IVF:
                                                                  2,105 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    318 mL
   Urine:
                                                                    400 mL
                                                                    318 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,705 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   359 K/uL
   9.7 g/dL
   99 mg/dL
   4.3 mg/dL
   18 mEq/L
   4.4 mEq/L
   82 mg/dL
   99 mEq/L
   134 mEq/L
   29.9 %
   45.1 K/uL
        [image002.jpg]
                             [**2124-9-8**]  04:37 PM
                             [**2124-9-8**]  06:59 PM
                             [**2124-9-9**]  02:30 AM
   WBC
   57.1
   45.1
   Hct
   30.1
   29.9
   Plt
   415
   359
   Cr
   4.5
   4.3
   TropT
   0.82
   0.70
   Glucose
   106
   141
   99
   Other labs: PT / PTT / INR:17.5/32.8/1.6, CK / CKMB /
   Troponin-T:221/8/0.70, ALT / AST:178/138, Alk Phos / T Bili:889/5.2,
   Amylase / Lipase:84/25, Differential-Neuts:80.0 %, Band:11.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L, Albumin:2.5
   g/dL, LDH:379 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   A/P: Patient is an 81 yo man with pmhx CAD s/p CABG, recent NSTEMI,
   HTN, CKD here for ERCP now with hypotension.
   .
   # Hypotension: In PACU received 500 cc LR and neo gtt. Patient
   persistently hypotensive. Transferred to Unit. CVL placed. CVP 12-17 on
   arrival so speaks against volume depletion and patient did not lose any
   blood during procedure per anesthesia. Hematocrit stable from yesterday
   and no e/o active bleeding.  Possibilities for hypotension include
   sepsis given white count 46, fever, biliary source. Another possibility
   is cardiogenic given recent NSTEMI and known CHF with EF 35%. No
   evidence of tamponade on ekg and patient does not have muffled heart
   sounds or elev JVD.  Yesterday patient had evidence of demand ischemia.
   - as patient is full code and not with too large of oxygen requirement
   will tolerate moderate pulmonary edema as long as sats okay => will
   order 500 cc bolus of NS and consider additional boluses as needed
   (current CVP 10-12)
   -continue to treat biliary sepsis with vanc and zosyn
 vanc trough
   this AM is 15 so will re-order more vanco this morning
   - blood culture no growth to date
   - sputum culture is contaminated, will have to order another one
   - UA with mod leukocyte esterase, negative nitrate, mod bacteria, urine
   culture pending however zosyn should cover potential urinary source of
   infection
   -BNP > 70,000
   - cardiac enzymes initially > 1, now trending down to 0.7 as is CK
   - echo ordered, not yet complete
   - off of neo gtt
   - use dopamine drip for iontropic effect, will tolerate lower MAP as
   patient is tachycardic and trying to not whip the heart if possible
   -cvo2 is 68, crit > 30 so no need for transfusion at this time, would
   consider blood if crit < 25
   .
   # Cholangitis: p/t is s/p ERCP. Elevated white count which has improved
   since yesterday. Patient is currently afebrile x 24 hours.
   -ERCP recs initially to hold asa and plavix, however after event of
   last night, discussed with them need to re-start aspiring and plavix
   and heparin which they are okay with
   -npo for now
   -LFTs are trending down, will continue to follow daily
   -cont zosyn and vanco for now for biliary sepsis
   .
   # CAD: Patient with recent NSTEMI and hypotension. EKG initially
   unchanged but then with concordance of ST depression in V4 in the
   setting of Left anterior fascilar block.
   -echo ordered which is pending
   -cardiac enzymes trending down, max troponin > 1
   -continue on aspirin and plavix and heparin
   .
   # CHF: Patient with EF 35%. Hold lasix given hypotension. CXR with mild
   vol overload but patient maintaining sats with supplemental oxygen.
   - will tolerate some fluid overload in the setting of sepsis as long as
   maintains adequate oxygenation, as patient is full code always able to
   intubate as neede
   - dopamine for pressor support
   .
   # HTN: currently hypotensive, hold bp meds
   .
   # AoCRF: creatinine current trending down still >4. Likely pre-renal or
   atn as patient is likely septic and was getting diuresed. Hold off on
   diuresis for now.  Ordered urine lytes.
   -calculate Feurea today
   -avoid nephrotoxic agents
   -monitor UO
   .
   # BPH:
   hold hytrin given hypotension
   .
   # Macular degeneration: not on any eye gtts, has previously had
   injections with some success.
   .
   # FEN: 500 cc bolus NS, no lasix given blood pressure, replete lytes
   prn, okay to have ice chips
   .
   # PPx: protonix, iv heparin
   .
   # Access: PIV x 2, RIJ and A-line
   .
   # Full code- confirmed with pt
   .
   # Communication: wife [**Name (NI) 1139**] called. # [**Telephone/Fax (1) 1140**], needs ICU consent
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-8**] 03:29 PM
   Arterial Line - [**2124-9-8**] 03:50 PM
   Multi Lumen - [**2124-9-8**] 03:51 PM
   18 Gauge - [**2124-9-8**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-09-09 09:22:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 year old m with CAD s/p CABG CHF ef 35 admitted to OSH with NSTEMI,
   also with leukocytosis/abd pain- concern for cholangitis and admitted
   here for ERCP s/p sphincterotomy. Post-procedure he became hypotensive
   and was sent to [**Hospital Unit Name 4**].
   BP initially 80's on neo gtt  intra-ERCP; EKG unchanged. CVP 12-17.
   On [**Hospital Unit Name 4**] arrival: switched to dopa initially with improvement, then dev.
   recurrent hypotension req. levophed, [**4-22**] CP, EKG with LBBB and
   concordant ST dep V1-v4
   ASA/Plavix/heparin started per Cards
   Got: nitro and morphine for residual chest pain
       Vanc/Zosyn
   This morning: improved
   24 Hour Events:
 ARTERIAL LINE - START [**2124-9-8**] 03:50 PM
   A-line inserted in ERCP [**9-8**]
 MULTI LUMEN - START [**2124-9-8**] 03:51 PM
   inserted [**9-8**] upon arrival to ICU
 EKG - At [**2124-9-8**] 07:00 PM
 EKG - At [**2124-9-8**] 09:30 PM
   History obtained from Medical records, MICU housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-8**] 06:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-9**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Dopamine - 8 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2124-9-8**] 08:45 PM
   Pantoprazole (Protonix) - [**2124-9-8**] 10:20 PM
   Other medications:
   dulcolax, nebs, ASA, Plavix, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-9**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (77 - 110) bpm
   BP: 92/43(59) {89/43(59) - 109/52(68)} mmHg
   RR: 21 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 25 (10 - 25)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  2,105 mL
                                                                    594 mL
   PO:
   TF:
   IVF:
                                                                  2,105 mL
                                                                    594 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    318 mL
   Urine:
                                                                    400 mL
                                                                    318 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,705 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered, Wheezes :
   end exp)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: RUQ
   tenderness
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   359 K/uL
   99 mg/dL
   4.3 mg/dL
   18 mEq/L
   4.4 mEq/L
   82 mg/dL
   99 mEq/L
   134 mEq/L
   29.9 %
   45.1 K/uL
        [image002.jpg]
                             [**2124-9-8**]  04:37 PM
                             [**2124-9-8**]  06:59 PM
                             [**2124-9-9**]  02:30 AM
   WBC
   57.1
   45.1
   Hct
   30.1
   29.9
   Plt
   415
   359
   Cr
   4.5
   4.3
   TropT
   0.82
   0.70
   Glucose
   106
   141
   99
   Other labs: PT / PTT / INR:18.3/48.7/1.7, CK / CKMB /
   Troponin-T:221/8/0.70, ALT / AST:178/138, Alk Phos / T Bili:889/5.2,
   Amylase / Lipase:84/25, Differential-Neuts:80.0 %, Band:11.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L (rpt level
   pending), Albumin:2.5 g/dL, LDH:379 IU/L, Ca++:7.3 mg/dL, Mg++:2.4
   mg/dL, PO4:5.3 mg/dL
   Imaging: CXR: left hemithorax cut off
   engorged pulm vasculature compared to yesterday
   Microbiology: BDCx pending
   Assessment and Plan
   81 yo male with CAD, CHF, [**Hospital **] transferred from OSH with NSTEMI and
   biliary sepsis s/p ERCP/sphincterotomy. Post-ERCP course complicated by
   hypotension in the setting of recurr. cardiac ischemia/presumed sepsis
   Shock: suspect combination of sepsis, cardiac/demand ischemia. Still on
   dopa to maintain MAP though levophed since off
   *Continue zosyn, vanco (dose by level)
   *Cont dopa to maintain MAP>60
   *Fluid resuscitate
   Cholangitis: afebrile,LFT's trending down though with large
   leukocytosis. Remains on vanc/zosyn. f/u ERCP recs
   CAD/NSTEMI: Improved CP from yesterday. Continue heparin/plavix/ASA.
   Check Echo
   CHF: ef 35%. [**Month (only) 8**] worsen given fluid resuscitation. Continue to monitor
   resp status
   Acute on chronic renal failure: Cr peaked to 5 at OSH, decreasing
   slightly. Making reasonable uop. Continue I's and O's
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-8**] 03:29 PM
   Arterial Line - [**2124-9-8**] 03:50 PM
   Multi Lumen - [**2124-9-8**] 03:51 PM
   18 Gauge - [**2124-9-8**] 05:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-09-10 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Cardiac consult
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-9**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-10**] 02:00 AM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Couldn
t sleep last night otherwise doing well.
   Denies CP, SOB, N/V, abd pain.
   Flowsheet Data as of  [**2124-9-10**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 66 (63 - 79) bpm
   BP: 111/55(74) {85/38(53) - 111/55(74)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 10 (10 - 14)mmHg
   Total In:
                                                                  2,384 mL
                                                                    402 mL
   PO:
                                                                     90 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,294 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  1,078 mL
                                                                    405 mL
   Urine:
                                                                  1,078 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,306 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.41/26/81.[**Numeric Identifier 252**]/17/-5
   Physical Examination
   HEENT: NCAT MMM anicteric pink conjunctiva
   CV: RRR S1S2  no m/r/g, RIJ c/d/i
   PULM: scattered expiratory wheezes, bibasilar crackles
   ABD: distended but soft nontender +bs
   EXT:WWP 1+dp pulses, no edema, cyanosis
   Labs / Radiology
   353 K/uL
   9.9 g/dL
   94 mg/dL
   4.6 mg/dL
   17 mEq/L
   3.8 mEq/L
   96 mg/dL
   101 mEq/L
   132 mEq/L
   31.5 %
   32.1 K/uL
        [image002.jpg]
                             [**2124-9-8**]  04:37 PM
                             [**2124-9-8**]  06:59 PM
                             [**2124-9-9**]  02:30 AM
                             [**2124-9-9**]  10:38 AM
                             [**2124-9-9**]  05:18 PM
                             [**2124-9-9**]  09:00 PM
                             [**2124-9-10**]  04:36 AM
   WBC
   57.1
   45.1
   32.1
   Hct
   30.1
   29.9
   31.5
   Plt
   [**Telephone/Fax (3) 1180**]
   Cr
   4.5
   4.3
   4.5
   4.6
   TropT
   0.82
   0.70
   0.62
   TCO2
   17
   Glucose
   106
   141
   99
   93
   94
   Other labs: PT / PTT / INR:14.9/44.9/1.3, CK / CKMB /
   Troponin-T:54/7/0.62, ALT / AST:106/52, Alk Phos / T Bili:704/2.9,
   Amylase / Lipase:84/25, Differential-Neuts:93.6 %, Band:0.0 %,
   Lymph:3.7 %, Mono:1.5 %, Eos:1.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.5
   g/dL, LDH:380 IU/L, Ca++:7.3 mg/dL, Mg++:2.6 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   A/P: Patient is an 81 yo man with pmhx CAD s/p CABG, recent NSTEMI,
   HTN, CKD here for ERCP now with hypotension.
   .
   # Hypotension: Concern for hypovolemia, demand ischemia and sepsis. Now
   only on dopamine with good urine output, steady BP and HR. Echo will be
   performed tomorrow to further evaluate cardiac function. Cardiac
   enzymes trending down, likely in light of demand ischemia and not new
   reinfarction. In terms of sepsis, blood and urine cultures still
   pending while WBC trending down. Will need to repeat a sputum culture
   if possible. Will continue antibiotic coverage for GI sources given
   instrumentation.
   -continue vanc and zosyn for biliary sepsis
   - f/u blood cultures
   -TTE tomorrow
   -continue to attempt at weaning off pressors
   .
   # Cholangitis: p/t is s/p ERCP. WBC and LFTs trending down (only LDH
   remains elevated). Has remained afebrile with minimal abdominal
   discomfort. On vanco/zosyn.
   -adv diet as tolerated if ok with ERCP
   -continue to trend labs
   -cont zosyn and vanco for biliary sepsis; clarify with ERCP what is end
   date of abx coverage
   .
   # CAD: Patient with recent NSTEMI and hypotension. Appreciate
   cardiology recommendations- the feel is that this is demand ischemia
   and not reinfarction. Cardiac enzymes trending down. Continue on ASA,
   plavix, heparin.
   -f/u echo as above
   -telemetry
   -continue on aspirin and plavix and heparin; can restart BB once
   hemodynamically stable
   .
   # CHF: Patient with EF 35%. CXR with mild vol overload but patient
   maintaining sats with supplemental oxygen. Would hold off on giving
   lasix since on exam he still appears slightly dry. Would cautiously
   give fluids with goal of 30cc/hr.
   - monitor BP, holding
   - attempt to wean dopamine as tolerated
   .
   # HTN: currently hypotensive, hold bp meds
   .
   # AoCRF: FeUrea 41.7% with is borderline and nondiagnostic. Would
   repeat urine lytes as those used to calculate were from [**9-8**]. However
   most likely pre-renal/ATN in etiology. Hold off on lasix for time being
   given hypotension unless UOP is not responding to fluid boluses.
   -avoid nephrotoxic agents
   -monitor UO
   .
   # BPH:
   hold hytrin given hypotension
   .
   # Macular degeneration: not on any eye gtts, has previously had
   injections with some success.
   .
   # FEN: prn bolus NS, replete lytes prn, adv diet as tolerated (pending
   ERCP ok today)
   .
   # PPx: protonix, iv heparin
   .
   # Access: PIV x 2, RIJ and A-line (can be d/c once off pressors)
   .
   # Full code- confirmed with pt
   .
   # Communication: wife [**Name (NI) 1139**] called. # [**Telephone/Fax (1) 1140**]
   .
   # Dispo: once HD stable transfer to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-8**] 03:29 PM
   Arterial Line - [**2124-9-8**] 03:50 PM
   Multi Lumen - [**2124-9-8**] 03:51 PM
   18 Gauge - [**2124-9-8**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-09-10 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   *Pressors down to dopamine 2 mcg/kg/min
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-9**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-10**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-10**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 64 (63 - 77) bpm
   BP: 120/60(80) {87/39(55) - 120/60(80)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 11 (10 - 14)mmHg
   Total In:
                                                                  2,384 mL
                                                                    536 mL
   PO:
                                                                     90 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,294 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  1,078 mL
                                                                    725 mL
   Urine:
                                                                  1,078 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,306 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Lungs: scattered end exp wheezes, some rales at bases
   CV: RRR
   Abd: soft, +bs, no further tenderness
   Skin: warm, no rashes
   Neurologic: Alert, interactive, answers questions, movements purposeful
   Labs / Radiology
   9.9 g/dL
   353 K/uL
   94 mg/dL
   4.6 mg/dL
   17 mEq/L
   3.8 mEq/L
   96 mg/dL
   101 mEq/L
   132 mEq/L
   31.5 %
   32.1 K/uL
        [image002.jpg]
                             [**2124-9-8**]  04:37 PM
                             [**2124-9-8**]  06:59 PM
                             [**2124-9-9**]  02:30 AM
                             [**2124-9-9**]  10:38 AM
                             [**2124-9-9**]  05:18 PM
                             [**2124-9-9**]  09:00 PM
                             [**2124-9-10**]  04:36 AM
   WBC
   57.1
   45.1
   32.1
   Hct
   30.1
   29.9
   31.5
   Plt
   [**Telephone/Fax (3) 1180**]
   Cr
   4.5
   4.3
   4.5
   4.6
   TropT
   0.82
   0.70
   0.62
   TCO2
   17
   Glucose
   106
   141
   99
   93
   94
   Other labs: PT / PTT / INR:14.9/44.9/1.3, CK / CKMB /
   Troponin-T:54/7/0.62, ALT / AST:106/52, Alk Phos / T Bili:704/2.9,
   Amylase / Lipase:84/25, Differential-Neuts:93.6 %, Band:0.0 %,
   Lymph:3.7 %, Mono:1.5 %, Eos:1.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.5
   g/dL, LDH:380 IU/L, Ca++:7.3 mg/dL, Mg++:2.6 mg/dL, PO4:5.5 mg/dL
   LFT
s decreasing
   Assessment and Plan
   81 year old male with CAD s/p CABG, HTN, CHF ef 35% with recent course
   notable for NSTEMI, biliary sepsis s/p ERCP/sphinecteromy complicated
   post-procedure by shock (combination shock + increased cardiac
   ischemia) (demand)
   Shock: Remains pressor dependent though requirement has decreased since
   yesterday.  Reduction in abdominal tenderness, LFT
s and leukocytosis
   suggests sepsis improving.
   Continue to wean dopamine down as toleraated and hope to get off today.
   Continue to hold BP meds
   Cholangitis: continue Vanc (dose by level given renal
   insufficiency)/Zosyn and trending of LFT
   CAD/NQWMI: no further s/sx of ischemia on ASA, plavix, heparin.
   Post-procedure CP felt due to demand phenomenon.
   Acute on chronic renal failure: baseline Cr 2.1 in [**11-19**]; unchanged
   renal function. Suspect ATN/sepsis but increase fluids
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: right IJ, a-line
   20 Gauge - [**2124-9-8**] 03:29 PM
   Arterial Line - [**2124-9-8**] 03:50 PM
   Multi Lumen - [**2124-9-8**] 03:51 PM
   18 Gauge - [**2124-9-8**] 05:30 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2124-09-11 07:49:00 Physician Resident Progress Note
Chief Complaint: Hypotension after ERCP
   24 Hour Events:
   [**9-10**]
   Weaned of pressors in PM
   COnsent for OSH records (cardiovascular) on chart signed by wife
   Started on clear diet
   ERCP: ERCP in [**1-16**] months
   Renal USG: no hydronephrosis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-9**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-11**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Denies chest pain, shortness of breath. Denies
   nausea, vomiting, abdominal pain. Appetite is
coming back
 Persistent
   cough.
   Flowsheet Data as of  [**2124-9-11**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 56 (56 - 71) bpm
   BP: 117/47(71) {105/45(68) - 135/67(90)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 10 (6 - 13)mmHg
   Total In:
                                                                  1,223 mL
                                                                    331 mL
   PO:
                                                                    260 mL
                                                                     75 mL
   TF:
   IVF:
                                                                    963 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    430 mL
   Urine:
                                                                  1,685 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -462 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///16/
   Physical Examination
   Skin: RIJ c/d/i
   CV: RRR, normal S1/S2; no murmurs, rubs appreciated
   Pulm: Clear to auscultation bilaterally; no wheezes, rales, or rhonchi
   Abd: Hypoactive bowel sounds; soft, nontender, not distended
   Extremities: No edema noted
   Labs / Radiology
   334 K/uL
   9.5 g/dL
   84 mg/dL
   4.3 mg/dL
   16 mEq/L
   3.7 mEq/L
   92 mg/dL
   101 mEq/L
   134 mEq/L
   28.8 %
   19.5 K/uL
        [image002.jpg]
                             [**2124-9-8**]  04:37 PM
                             [**2124-9-8**]  06:59 PM
                             [**2124-9-9**]  02:30 AM
                             [**2124-9-9**]  10:38 AM
                             [**2124-9-9**]  05:18 PM
                             [**2124-9-9**]  09:00 PM
                             [**2124-9-10**]  04:36 AM
                             [**2124-9-11**]  04:25 AM
   WBC
   57.1
   45.1
   32.1
   19.5
   Hct
   30.1
   29.9
   31.5
   28.8
   Plt
   [**Telephone/Fax (3) 1226**]34
   Cr
   4.5
   4.3
   4.5
   4.6
   4.3
   TropT
   0.82
   0.70
   0.62
   TCO2
   17
   Glucose
   106
   141
   99
   93
   94
   84
   Other labs: PT / PTT / INR:15.4/76.0/1.4, CK / CKMB /
   Troponin-T:54/7/0.62, ALT / AST:78/32, Alk Phos / T Bili:578/2.5,
   Amylase / Lipase:84/25, Differential-Neuts:93.6 %, Band:0.0 %,
   Lymph:3.7 %, Mono:1.5 %, Eos:1.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.3
   g/dL, LDH:360 IU/L, Ca++:7.4 mg/dL, Mg++:2.9 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   81 yo man with CAD s/p CABG, recent NSTEMI at OSH, HTN, CKD here for
   ERCP ([**2124-8-9**]) now with hypotension.
   # Hypotension: Now resolved. Initially concern for hypovolemia, demand
   ischemia, and sepsis. Pressures discontinued yesterday around 5pm.
   Maintaining pressures very well. Good urine output.
       In terms of etiology, cardiac enzymes trended down; no indication
   of new reinfarction.
       In terms of sepsis, blood and urine cultures still pending while
   WBC trending down. Will continue antibiotic coverage for GI sources
   given instrumentation.
   - Continue vanc and zosyn for biliary sepsis
   - Continue to monitor cultures
   .
   # Cholangitis: s/p ERCP. WBC and LFTs trending down (only LDH remains
   elevated). Has remained afebrile with minimal abdominal discomfort.
   - Continue vanco/zosyn for possible biliary sepsis
   - Touch base with GI
 if okay, will advance diet as tolerated; also
   find out how long to dose antibiotics
   - Continue to trend labs
   .
   # CAD: Patient with recent NSTEMI and hypotension. Appreciate
   cardiology recommendations- the feel is that this is demand ischemia
   and not reinfarction. Cardiac enzymes trending down. Continue on ASA,
   plavix, heparin. When able to tolerate, will add on beta-blcoker.s
   - Continue on telemetry
   - Continue on aspirin and Plavix
   - D/c heparin drip
   - Continue adding on beta-blocker when able to tolerate
   .
   # CHF: Patient with EF 35%. Appears euvolemic at this time.
   .
   # HTN: As off of pressors for <24 hours, will hold BP meds at this
   time.
   .
   # AoCRF: Still pre-renal by serum lytes. Good urine output. Will hold
   off on given fluid at this time given history of heart failure. Avoid
   nephrotoxic agents. Renal ultrasound without hydronephrosis.
   - Continue to monitor UOP closely
   .
   # BPH:
   -          Continue to hold hytrin
   -          Foley in place
   .
   # Macular degeneration: Not on any eye gtts, has previously had
   injections with some success.
   .
   # FEN: prn bolus NS, replete lytes prn, adv diet as tolerated
   .
   # PPx: protonix, heparin SC TID
   .
   # Access: PIV x 2, RIJ and A-line
   - Will d/c A-line, RIJ today
   .
   # Full code- confirmed with pt
   .
   # Communication: wife [**Name (NI) 1139**] called. # [**Telephone/Fax (1) 1140**]
   .
   # Dispo: once HD stable transfer to floor
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-8**] 03:29 PM
   Arterial Line - [**2124-9-8**] 03:50 PM
   Multi Lumen - [**2124-9-8**] 03:51 PM
   18 Gauge - [**2124-9-8**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-09-11 12:29:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No chest or abd pain
   24 Hour Events:
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-9**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-11**] 10:00 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-11**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Jaundice
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: Anemia
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2124-9-11**] 12:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 64 (56 - 71) bpm
   BP: 108/38(62) {105/38(62) - 135/67(90)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  1,223 mL
                                                                    663 mL
   PO:
                                                                    260 mL
                                                                    225 mL
   TF:
   IVF:
                                                                    963 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                  1,090 mL
   Urine:
                                                                  1,685 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -462 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scattered basilar, No(t) Wheezes : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   334 K/uL
   84 mg/dL
   4.3 mg/dL
   16 mEq/L
   3.7 mEq/L
   92 mg/dL
   101 mEq/L
   134 mEq/L
   28.8 %
   19.5 K/uL
        [image002.jpg]
                             [**2124-9-8**]  04:37 PM
                             [**2124-9-8**]  06:59 PM
                             [**2124-9-9**]  02:30 AM
                             [**2124-9-9**]  10:38 AM
                             [**2124-9-9**]  05:18 PM
                             [**2124-9-9**]  09:00 PM
                             [**2124-9-10**]  04:36 AM
                             [**2124-9-11**]  04:25 AM
   WBC
   57.1
   45.1
   32.1
   19.5
   Hct
   30.1
   29.9
   31.5
   28.8
   Plt
   [**Telephone/Fax (3) 1226**]34
   Cr
   4.5
   4.3
   4.5
   4.6
   4.3
   TropT
   0.82
   0.70
   0.62
   TCO2
   17
   Glucose
   106
   141
   99
   93
   94
   84
   Other labs: PT / PTT / INR:15.4/76.0/1.4, CK / CKMB /
   Troponin-T:54/7/0.62, ALT / AST:78/32, Alk Phos / T Bili:578/2.5,
   Amylase / Lipase:84/25, Differential-Neuts:93.6 %, Band:0.0 %,
   Lymph:3.7 %, Mono:1.5 %, Eos:1.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.3
   g/dL, LDH:360 IU/L, Ca++:7.4 mg/dL, Mg++:2.9 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Cholangitis
   Sepsis
   NSTEMI
   ATN
   CRF
   CAD, s/p CABG
   CHF
   BPH
   Denies pain or SOB. We are d/cing heparin. Mild crackles on exam but
   urine output is increasing suggesting ATN may be resolving.  Remains on
   abx for 10d course.
   ICU Care
   Nutrition:
   Comments: starting to eat
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2124-9-8**] 03:29 PM
   Arterial Line - [**2124-9-8**] 03:50 PM
   Multi Lumen - [**2124-9-8**] 03:51 PM
   18 Gauge - [**2124-9-8**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-09-12 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2124-9-11**] 01:33 PM
   A-line inserted in ERCP [**9-8**]
   Cards: started on metoprolol 12.5mg [**Hospital1 1275**] transfer to [**Hospital1 1276**] when stable
   ERCP recs: advance diet as tolerated
   d/ced heparin ggt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-9**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-12**] 01:37 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-11**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Feels
restless
 this morning. Anxious to get out of bed, have better
   meal. Denies nausea/vomiting, abdominal pain. Denies chest pain,
   shortness of breath. Reports insomnia for past several days.
   Flowsheet Data as of  [**2124-9-12**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 69 (56 - 72) bpm
   BP: 122/57(73) {92/43(56) - 126/66(90)} mmHg
   RR: 24 (19 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 4 (3 - 10)mmHg
   Total In:
                                                                  1,232 mL
                                                                    118 mL
   PO:
                                                                    625 mL
   TF:
   IVF:
                                                                    607 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    865 mL
   Urine:
                                                                  2,010 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -778 mL
                                                                   -748 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Loud)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Wheezes :
   expiratory; diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present, Negative [**Doctor Last Name 1277**]
   sign
   Extremities: Right: Absent, Left: Absent
   Labs / Radiology
   320 K/uL
   9.7 g/dL
   88 mg/dL
   3.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   83 mg/dL
   104 mEq/L
   136 mEq/L
   30.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2124-9-8**]  04:37 PM
                             [**2124-9-8**]  06:59 PM
                             [**2124-9-9**]  02:30 AM
                             [**2124-9-9**]  10:38 AM
                             [**2124-9-9**]  05:18 PM
                             [**2124-9-9**]  09:00 PM
                             [**2124-9-10**]  04:36 AM
                             [**2124-9-11**]  04:25 AM
                             [**2124-9-12**]  04:24 AM
   WBC
   57.1
   45.1
   32.1
   19.5
   16.0
   Hct
   30.1
   29.9
   31.5
   28.8
   30.0
   Plt
   [**Telephone/Fax (3) 1226**]34
   320
   Cr
   4.5
   4.3
   4.5
   4.6
   4.3
   3.9
   TropT
   0.82
   0.70
   0.62
   TCO2
   17
   Glucose
   106
   141
   99
   93
   94
   84
   88
   Other labs: PT / PTT / INR:13.8/31.0/1.2, CK / CKMB /
   Troponin-T:54/7/0.62, ALT / AST:59/32, Alk Phos / T Bili:532/2.5,
   Amylase / Lipase:84/25, Differential-Neuts:84.4 %, Band:0.0 %,
   Lymph:8.1 %, Mono:4.3 %, Eos:3.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.5
   g/dL, LDH:318 IU/L, Ca++:7.7 mg/dL, Mg++:2.7 mg/dL, PO4:3.8 mg/dL
   Corrected serum Ca = 8.9
   Sputum culture
 No growth (final)
   Blood culture
 Pending
   Urine culture
 No growth (final)
   TTE ([**2124-9-11**]): The left atrium is elongated. The left ventricular
   cavity is moderately dilated. Overall left ventricular systolic
   function is severely depressed (LVEF= 20-25 %). There is no ventricular
   septal defect. Right ventricular chamber size and free wall motion are
   normal. There is abnormal septal motion/position. The ascending aorta
   is mildly dilated. The aortic valve leaflets (3) are mildly thickened
   but aortic stenosis is not present. No aortic regurgitation is seen.
   The mitral valve leaflets are mildly thickened. There is no mitral
   valve prolapse. Mild (1+) mitral regurgitation is seen. There is
   borderline pulmonary artery systolic hypertension. There is no
   pericardial effusion. IMPRESSION: Moderately dilated LV cavity with
   severe global hypokinesis. Mild mitral regurgitation.
   Assessment and Plan
   81 yo man with CAD s/p CABG, recent NSTEMI at OSH, HTN, CKD here for
   ERCP ([**2124-8-9**]) for cholangitis and admitted to ICU with hypotension,
   now resolved.
   .
   # Cholangitis: s/p ERCP. WBC and LFTs still elevated but trending down.
   Has remained afebrile with no abdominal discomfort this morning.
   Appetite improving; asking for solid foods this morning. Able to
   tolerate jello and apple sauce last night.
   - Continue zosyn for possible biliary sepsis, likely for 14 day course
   (currently day 5)
   - Follow-up GI recs
   - Continue to trend labs
   .
   # CAD: Patient with recent NSTEMI and hypotension. No recent episodes
   of chest pain, hypotension. Cardiac enzymes trending down when last
   checked [**9-9**]. Heparin drip d/c
d [**9-11**].
   - Continue on telemetry
   - Continue on aspirin and Plavix
   - Per cards recs, started on metoprolol 12.5mg PO BID
   .
   # CHF (systolic dysfunction): Per history, patient with EF 35% by
   previous TTE (date unknown). TTE on [**9-11**] with significantly reduced EF
   (20-25%) and
severe global hypokinesis
. Patient appears euvolemic by
   exam.
   - Continue metoprolol as above.
   - Unable to start ACE I given renal failure.
   .
   # HTN: Systolic BP down to 90s overnight, but otherwise hypotension
   resolved. BP well-controlled.
   - Continue metoprolol as above.
   .
   # AoCRF: Still pre-renal by serum lytes. Good urine output over past 24
   hours. Will hold off on fluid at this time given severe systolic
   dysfunction. Avoid nephrotoxic agents. Renal ultrasound without
   hydronephrosis.
   - Continue to monitor UOP closely; Foley in place
   .
   # BPH: Good urine output
   - D/c Foley
   - Restart hytrin
   .
   # Macular degeneration: Not on any eye gtts, has previously had
   injections with some success.
   .
   # FEN: Replete lytes prn, adv diet as tolerated
   .
   # PPx: Protonix, heparin SC TID
   .
   # Access: PIV x 2, RIJ
   - Will d/c RIJ today
   .
   # Code status: FULL CODE, confirmed with pt
   .
   # Communication: [**Name (NI) 1139**] (wife), ([**Telephone/Fax (1) 1278**]
   .
   # Dispo: Likely today to [**Hospital1 1276**]
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-8**] 03:29 PM
   Multi Lumen - [**2124-9-8**] 03:51 PM
   18 Gauge - [**2124-9-8**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: